US08710044B2
tert-Butyl ((1S)-2-{methyl[(4-nitrophenyl)sulfonyl]amino}-1-phenylethyl)carbamate
tert-Butyl (45)-4-phenyl-1,2,3-oxathiazolidine-3-carboxylate 2,2-dioxide (1 g; 3.34 mmol), N-methyl-4-nitrobenzenesulfonamide (722 mg; 3.34 mmol), and Cs2CO3 (0.40 ml; 5.01 mmol) were dissolved in CH3CN (25 ml), and stirred overnight. The reaction mixture was filtered, washed with H2O (50 ml), and dried under vacuum to provide the desired intermediate (1.12 g; 77%).

reactant | tert-Butyl (45)-4-phenyl-1,2,3-oxathiazolidine-3-carboxylate 2,2-dioxide | 3.34 mmol, 1 g | C1(=CC=CC=C1)[C@@H]1N(S(OC1)(=O)=O)C(=O)OC(C)(C)C | C13H17NO5S
reactant | N-methyl-4-nitrobenzenesulfonamide | 3.34 mmol, 722 mg | CNS(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C7H8N2O4S
reactant | Cs2CO3 | 5.01 mmol, 0.40 ml | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | CH3CN | 25 ml | CC#N | C2H3N
product | tert-Butyl ((1S)-2-{methyl[(4-nitrophenyl)sulfonyl]amino}-1-phenylethyl)carbamate | 1.12 g, 77% | CN(C[C@H](C1=CC=CC=C1)NC(OC(C)(C)C)=O)S(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C20H25N3O6S
